US04352806
Preparation of 4-Hydroxy-6-Methyl-2-Trichloromethylpyrimidine
A mixture of 44.4 g (0.28 mole) trichloroacetamidine, 32.0 g (0.28 mole) methyl acetoacetate, 37.5 g (0.28 mole) potassium carbonate, and 450 ml water was stirred for 3 days. A trace of solid was removed by filtration and the filtrate was made acidic with hydrochloric acid. The product precipitated out to give 28.9 g (46% yield; mp 173°-174° C.). The structure was confirmed via mp*, infrared, and elemental analysis.

reactant | trichloroacetamidine | 0.28 mole, 44.4 g | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
reactant | methyl acetoacetate | 0.28 mole, 32.0 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | potassium carbonate | 0.28 mole, 37.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 450 ml | O | H2O
product | 4-Hydroxy-6-Methyl-2-Trichloromethylpyrimidine | 46% yield | OC1=NC(=NC(=C1)C)C(Cl)(Cl)Cl | C6H5Cl3N2O
